US05231198
A 1 L round bottom flask equipped with a mechanical stirrer, addition funnel, condenser, and nitrogen inlet is charged with 6.6 g (0.27 mol) of magnesium turnings and 25 ml of dry tetrahydrofuran. To this stirred mixture a solution of 50 g (0.27 mol) of bromophenyl benzylether in 50 ml of dry THF is added dropwise. The reaction needs to be heated (30°-40° C.) at first to initiate it but then the heating mantel is removed and the temperature maintained by the rate of addition. Once the addition is complete the reaction is held at 45°-50° C. for 2 hours, then 300 ml of dry THF is added. The solution is cooled to -30° C. and 1.2 g (0.012 mol) of copper (I) chloride is added. The resulting mixture is stirred for 10 minutes and then a solution of 26 g (0.265 mol) of cyclohexene oxide in 30 ml of THF is added dropwise over 1 hour. Upon completion of the addition the reaction is allowed to warm to 0° C. and stirred for 2 hours, then diluted with 300 ml of ethyl acetate and quenched by addition of 150 ml of saturated aqueous ammonium sulfate solution. The organic phase is separated and washed with another 75 ml of ammonium sulfate solution. The combined aqueous phases are extracted with 100 ml of ethyl acetate. The organic phases are combined, dried with magnesium sulfate, and evaporated under reduced pressure to yield 65 g of trans-2-(2'-benzyloxyphenyl)cyclohexanol as an amber oil, which is used directly in the next step.

reactant | magnesium | 0.27 mol, 6.6 g | [Mg] | Mg
reactant | bromophenyl benzylether | 0.27 mol, 50 g | BrC(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C1=CC=CC=C1)(Br)C1=CC=CC=C1 | C26H20Br2O
reactant | cyclohexene oxide | 0.265 mol, 26 g | C12C(CCCC1)O2 | C6H10O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) chloride | 0.012 mol, 1.2 g | [Cu]Cl
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | trans-2-(2'-benzyloxyphenyl)cyclohexanol | 65 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[C@H]1[C@@H](CCCC1)O | C19H22O2
